US09085534B2
3-[(3,4-dichlorobenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 37% yield from 3,4-dichlorobenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.48 (br s, 1H), 8.10 (s, 1H), 7.84 (d, 1H, J=5.0 Hz), 7.57-7.65 (m, 3H), 7.35 (dd, 1H, J=8.3, 1.9 Hz), 4.59 (s, 2H). [M+H] calc'd for C13H10Cl2N2O2, 297, 299; found 297, 299.

reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(3,4-dichlorobenzyl)amino]pyridine-4-carboxylic acid | 37% yield | ClC=1C=C(CNC=2C=NC=CC2C(=O)O)C=CC1Cl | C13H10Cl2N2O2
